US04379167
4-Chloro-1-(4-chlorophenoxy)-2-butanol was prepared using the procedure of Preparation 7 from 45 g. (0.5 mole) of p-chlorophenol, 72 g. (0.5 mole) of 1,4-dichloro-2-butanol, 40 g. (1.0 mole) of sodium hydroxide and 400 ml. of water to give 85 g. (36.1%) of product which melted at 62°-64° C. after recrystallization from isopropanol.

reactant | p-chlorophenol | 0.5 mole | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | 1,4-dichloro-2-butanol | 0.5 mole | ClCC(CCCl)O | C4H8Cl2O
reactant | sodium hydroxide | 1.0 mole | [OH-].[Na+]
solvent | water | O | H2O
product | 4-Chloro-1-(4-chlorophenoxy)-2-butanol | ClCCC(COC1=CC=C(C=C1)Cl)O | C10H12Cl2O2
